US07557103B2
C. 4-[3-(5-Fluoro-3-methyl-benzo[b]thiophen-2-yl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-8-yl]-heptan-4-ol
N-Propylmagnesium bromide (0.601 g, 4.09 mmol) is added dropwise to a solution of 1-[3-(5-fluoro-3-methyl-benzo[b]thiophen-2-yl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-8-yl]-butan-1-one (1.08 g, 2.72 mmol) in THF (27 mL) at 0° C. The reaction is stirred at room temperature overnight. The mixture is quenched with ammonium chloride, extracted with ethylacetate, dried over sodium sulfate, filtered, and concentrated to dryness. The crude is purified by ISCO (5% EtOAc/Hexane) to give the title compound (280 mg, 24%). 1H NMR (CDCl3): δ 7.8 (dd, J=4.8, 8.5 Hz, 1H), 7.5 (dd, J=2.5, 9.7 Hz, 1H), 7.2 (m, 1H), 6.7 (s, 1H), 6.4 (s, 1H), 2.6 (s, 3H), 2.5 (s, 3H), 2.3 (s, 3H), 2.0 (m, 3H), 1.5 (m, 1H), 1.3 (m, 4H), 0.9 (t, J=7.3, 6H) ppm. Mass spectrum (m/e): 426 (M+1).

reactant | N-Propylmagnesium bromide | 4.09 mmol, 0.601 g | CC[CH2-].[Mg+2].[Br-]
reactant | 1-[3-(5-fluoro-3-methyl-benzo[b]thiophen-2-yl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-8-yl]-butan-1-one | 2.72 mmol, 1.08 g | FC1=CC2=C(SC(=C2C)C2=C(N=C3N2N=C(C=C3C(CCC)=O)C)C)C=C1 | C21H20FN3OS
solvent | THF | 27 mL | C1CCOC1 | C4H8O
product | 4-[3-(5-Fluoro-3-methyl-benzo[b]thiophen-2-yl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-8-yl]-heptan-4-ol | 280 mg, 24% | FC1=CC2=C(SC(=C2C)C2=C(N=C3N2N=C(C=C3C(CCC)(CCC)O)C)C)C=C1 | C24H28FN3OS
